* ============================================================================
* HYG180N10 (Huayi HYG180N10LS1P) - UNOFFICIAL behavioral SPICE model
* 100V / 50A N-Channel MOSFET, TO-220FB-3L
* Built from published datasheet typical values, not a factory-supplied model.
*
* REV 3 - pin list reduced from (D G S B) to (D G S).
*         The body is now tied to the source INSIDE the subcircuit, which is
*         what the real TO-220 part does - the body is bonded to the source
*         lead and is not accessible. This makes the model a drop-in for the
*         standard 3-terminal nmos symbol.
*
*         Nothing changes electrically: every instance in BOOST.net already
*         had B connected to S.
*
*         >>> INSTANCE PREFIX IS STILL X, NOT M <<<
*         This is a .SUBCKT, so instances read:
*             X2 N022 GATE_M2 N016 HYG180N10
*         Use the standard LTspice "nmos" symbol with Prefix changed to X and
*         Value set to HYG180N10, or the supplied HYG180N10.asy.
*
*         A 4-terminal variant HYG180N10_4T (D G S B) is kept at the bottom of
*         this file for any symbol that still exposes a bulk pin. It is
*         otherwise identical.
*
* REV 2 - became a .SUBCKT (was a plain .MODEL). Added:
*           1. internal gate resistance  RG = 2.38 ohm
*           2. drain-source avalanche breakdown at BVDSS = 100 V
*
* ---------------------------------------------------------------------------
* WHY THE BREAKDOWN MATTERS IN THIS CIRCUIT
* ---------------------------------------------------------------------------
* Before REV 2 there was no breakdown behaviour at all, so LTspice happily
* showed 180 V on the switch node with no complaint. Real silicon avalanches
* at 100 V. With this model the drain-source voltage clamps near 100 V and
* you will SEE the avalanche current - which is the current that destroys
* the real part. If you see it, the design is not safe to build yet.
*
* Avalanche here is modelled as a hard clamp (about 170 A at 102 V). It does
* NOT model avalanche energy limits, thermal runaway, or single-pulse
* avalanche ratings. Treat any avalanche current as a design failure, not as
* an operating mode.
*
* ---------------------------------------------------------------------------
* VERIFIED IN NGSPICE
* ---------------------------------------------------------------------------
*   RDS(on)     17.6 mohm at VGS=10V, ID=22.7A   (datasheet typ 16.5 mohm)
*   Body diode  VSD = 0.960 V at ISD = 25.00 A   (datasheet typ 0.96 V)
*   Breakdown   leakage 0.25 nA at 98 V; 1 mA at 100 V; 169 A at 102 V
*
* ---------------------------------------------------------------------------
* REV 4 - checked line by line against the HYG180N10LS1P datasheet
*         (HuaYi Microelectronics, V1.0, www.hymexa.com).
*
*         PART IS 50 A, NOT 180 A. Datasheet: ID = 50 A at Tc=25C, 35.4 A at
*         Tc=100C, IDM = 200 A, Ciss = 1606 pF. The "180" in the part number
*         encodes RDS(on) (~18 mohm nominal), not current. Marketplace
*         listings advertising "100V 180A" are misreading the part number.
*         This closes the open question about Ciss being 8-12 nF.
*
*         Changed in REV 4:
*           KP    8    -> 8.6     RDS(on) now 16.5 mohm at VGS=10V, ID=25A
*                                 (was 17.6). Use KP=6.6 for the 21 mohm max
*                                 corner.
*           CGSO  1580p-> 1583p   Ciss = CGSO+CGDO = 1606 pF exactly
*           CGDO  20p  -> 22.8p   Crss spec is 22.8 pF, was 20
*           CBD   450p -> 2.75n   Coss was 5.05x LOW: 450p collapses to 74 pF
*                                 by VDS=25V, giving Coss=94 pF against a
*                                 476 pF spec. 2.75n gives 476 pF at 25 V.
*                                 This raises LX node capacitance ~2.5x.
*           TT    120n -> 2.55n   Qrr/IF = 63.7nC/25A. Old value implied
*                                 ~3 uC of stored charge, 47x too much.
*
* ---------------------------------------------------------------------------
* MATCHED TO DATASHEET
* ---------------------------------------------------------------------------
*   VDSS        = 100 V min @ 250uA  -> BV on the body diode
*   VGS(th) typ = 1.8 V (1.0/3.0)    -> VTO. RUN THE VTO=1.0 CORNER: it is
*                                       what decides cross-conduction margin.
*   RDS(on) typ = 16.5 mohm @ VGS=10V, ID=25A
*   Ciss = 1606 pF, Coss = 476 pF, Crss = 22.8 pF @ VDS=25V
*   RG typ      = 2.38 ohm           -> Rg
*   Body diode  VSD typ = 0.96 V @ ISD = 25 A
*   Qrr = 63.7 nC, trr = 46.9 ns @ ISD=25A, dI/dt=100A/us
*
* ---------------------------------------------------------------------------
* KNOWN MISMATCH THAT LEVEL=1 CANNOT FIX
* ---------------------------------------------------------------------------
*   RDS(on) @ VGS=4.5V, ID=20A: datasheet 27 mohm typ, this model 56 mohm.
*   Square law is too steep to hit both gate-drive points at once - matching
*   4.5 V would need KP=15.2, which would give 10 mohm at 10 V.
*
*   THIS MATTERS FOR DEAD TIME. The model needs VGS ~5.3 V to carry 49 A;
*   the real part carries it at 4.5 V. So real silicon holds current ~2.4 ns
*   longer into turn-off than this model shows, and simulated dead time is
*   optimistic. Do not size dead time from this model alone - use the
*   UCC21520 DT pin.
*
*   Qg(10V) = 17.9 nC here vs 24.6 nC datasheet, Qgd 1.8 vs 3.7 nC, because
*   SPICE CGDO is a fixed overlap cap with no Vds dependence, so there is no
*   real Miller plateau. Fixing this needs LTspice VDMOS (Cgdmax/Cgdmin) or
*   LEVEL=3.
*
*   Datasheet caution: the switching-time block (td_on 9.5 ns, tr 31.6 ns,
*   td_off 20.9 ns, tf 5.1 ns at RG=2.5 ohm) disagrees with the datasheet's
*   OWN gate-charge data by about 8x. Fit to Qg and C, not to those times.
*
* ---------------------------------------------------------------------------
* STILL NOT MODELLED
* ---------------------------------------------------------------------------
*   Temperature dependence of anything
*   Avalanche energy / thermal limits (datasheet EAS = 62.9 mJ single pulse,
*     RthJC = 1.6 C/W, TJmax 175 C) - see note above
*   Body-diode reverse recovery charge Qrr (TT is a rough placeholder)
*   Accurate Coss vs VDS curvature - LEVEL=1 junction cap, fitted at the
*     single 25 V datasheet point with MJ=0.5; refine from Figure 9
*   Gate charge plateau shape (square-law LEVEL=1 limitation)
*   Package inductance - add it externally if your dV/dt analysis needs it
*
* Accuracy note: square-law LEVEL=1 core, calibrated mainly at the VGS=10V
* datasheet point. Expect more error at low gate overdrive.
* ============================================================================


* ============================================================================
* 3-TERMINAL VERSION - USE THIS ONE
* ============================================================================
.SUBCKT HYG180N10 D G S
*
* --- internal gate resistance -----------------------------------------------
* Datasheet RG typ = 2.38 ohm. This is in series with whatever external gate
* resistor you fit, and it slows your real switching edges.
Rg G Gi 2.38
*
* --- core transistor --------------------------------------------------------
* Bulk is wired to S here: on the physical part the body is bonded to the
* source lead. IS is set to effectively zero so the intrinsic bulk-drain
* junction does not conduct; the body diode is modelled explicitly below so
* it can carry a breakdown voltage. CBD is retained here for junction
* capacitance (with B=S it is the drain-source junction capacitance).
Mcore D Gi S S HYG180N10_CORE
*
* --- explicit body diode WITH avalanche breakdown ---------------------------
* Forward: carries normal body-diode conduction (VSD 0.96 V at 25 A).
* Reverse: breaks down at BV = 100 V, modelling drain-source avalanche.
* CJO=0 because the junction capacitance is already in CBD on the core.
Dbody S D HYG180N10_BODY
*
.MODEL HYG180N10_CORE NMOS(LEVEL=1 VTO=1.8 KP=8.6 LAMBDA=0.003 L=1 W=1
+ RS=1m RD=1m
+ CGSO=1583p CGDO=22.8p CBD=2.75n PB=0.7 MJ=0.5
+ IS=1e-20)
*
.MODEL HYG180N10_BODY D(IS=3e-11 N=1.0 RS=10m BV=100 IBV=1m CJO=0 TT=2.55n)
*
.ENDS HYG180N10


* ============================================================================
* 4-TERMINAL VERSION - legacy, only for symbols that still expose a bulk pin.
* Identical to the above except the bulk is brought out. Tie B to S unless you
* have a specific reason not to; the real device gives you no choice.
* ============================================================================
.SUBCKT HYG180N10_4T D G S B
*
Rg G Gi 2.38
Mcore D Gi S B HYG180N10_CORE
Dbody S D HYG180N10_BODY
*
.MODEL HYG180N10_CORE NMOS(LEVEL=1 VTO=1.8 KP=8.6 LAMBDA=0.003 L=1 W=1
+ RS=1m RD=1m
+ CGSO=1583p CGDO=22.8p CBD=2.75n PB=0.7 MJ=0.5
+ IS=1e-20)
*
.MODEL HYG180N10_BODY D(IS=3e-11 N=1.0 RS=10m BV=100 IBV=1m CJO=0 TT=2.55n)
*
.ENDS HYG180N10_4T
