* ============================================================================
* MCP6561 - behavioural comparator model for LTspice
*
* DROP-IN REPLACEMENT for Microchip's macromodel. Same subcircuit name and
* same pin order, so no netlist changes are needed. Keep a backup of the
* original file.
*
* ---------------------------------------------------------------------------
* WHY
* ---------------------------------------------------------------------------
* Microchip's MCP6561 macromodel is a PSpice / SPICE 2G6 model. Its header:
*     "Use PSPICE (or SPICE 2G6; other simulators may require translation)"
* Like the MCP6241 model it is built from piecewise-linear TABLE current
* sources with segments reaching ~1900 A/V (GD31/GD32 around node 30, which
* is exactly where the "trouble with node u5:30" failure occurs).
*
* This model reproduces the datasheet behaviour using smooth, differentiable
* elements (tanh soft transitions rather than breakpoint tables), so LTspice
* converges reliably.
*
* ---------------------------------------------------------------------------
* DATASHEET VALUES MODELLED   (Microchip DS20002139, MCP6561/1R/1U/2/4)
* ---------------------------------------------------------------------------
*   Propagation delay .......... 49 ns typ low-to-high
*                                56 ns typ high-to-low
*                                -> modelled symmetrically at ~52.8 ns, which
*                                   is essentially the 52.5 ns average. If the
*                                   L->H / H->L skew matters, see TUNING.
*   Output ..................... push-pull, rail-to-rail, CMOS/TTL compatible
*                                -> swings to within 10 mV of both rails
*   Quiescent current .......... 100 uA typ           -> IQ
*   Input common mode range .... VSS-0.3 V to VDD+0.3 V (greater than R-to-R)
*   Input bias current ......... CMOS, negligible     -> 1e12 input resistors
*   Supply voltage ............. 1.8 V to 5.5 V MAXIMUM  (see warning below)
*   Input offset voltage ....... +/-3 mV typ. Modelled as 0; see TUNING.
*
* VALIDATED in ngspice: 52.8 ns propagation delay both directions, output
* levels 4.9898 V / 0.0102 V on a 5 V rail, and a single clean transition
* (no chatter) on a 500 us ramp through the threshold.
*
* NOTE: unlike the MCP6241 case, this model could NOT be cross-checked
* against Microchip's macromodel, because that macromodel does not simulate
* correctly in ngspice either - its internal node 30 sits at -87 V and the
* output never switches. That is consistent with it being a PSpice model.
* The values above therefore come from the datasheet, not from matching the
* vendor model.
*
* ---------------------------------------------------------------------------
* HYSTERESIS - PLEASE READ
* ---------------------------------------------------------------------------
* The real MCP6561 HAS internal input hysteresis. From the datasheet: "The
* internal input hysteresis eliminates output switching due to internal input
* noise voltage, reducing current draw."
*
* In the MCP6561.lib you were running, hysteresis is DISABLED (the E12 POLY
* line ending in "1 1 0" is active; the hysteresis variant ending in "-.5M"
* is commented out). This model defaults to hysteresis OFF as well, so that
* swapping it in changes ONLY convergence behaviour and nothing else.
*
* However, hysteresis-off is both the less accurate configuration AND the
* less numerically stable one. To enable it, edit BG1 below: change "0*" to
* the desired hysteresis in volts, e.g. 2m for +/-2 mV:
*     BG1 0 10 I=1m*tanh((V(1)-V(2)-2m*tanh(V(12)*5))/1m)
* Take the value from the datasheet VHYST specification. Enabling it should
* make both the simulation and the real circuit better behaved.
*
* ---------------------------------------------------------------------------
* NOT MODELLED  - check these on the bench, not in simulation
* ---------------------------------------------------------------------------
*   Output short-circuit current limit (+/-25 mA), output headroom vs load
*   Propagation delay vs overdrive, supply, common mode, temperature
*   L->H / H->L propagation delay skew
*   Input offset voltage, offset drift, CMRR/PSRR vs frequency
*   Output jitter, noise, supply current vs toggle frequency
*   Input ESD clamp conduction beyond the rails
*
* ---------------------------------------------------------------------------
* !! SUPPLY HEADROOM WARNING !!
* ---------------------------------------------------------------------------
* MCP6561 operating supply is 1.8 V to 5.5 V MAXIMUM, same as MCP6241.
* The BOOST circuit runs these from a 5 V rail - only 0.5 V of margin, and a
* 5 V regulator at +5% is already 5.25 V. This model does not enforce the
* limit; it will simulate happily at voltages that would damage the part.
*
* ---------------------------------------------------------------------------
* TUNING
* ---------------------------------------------------------------------------
*   Propagation delay  -> C10 (68p gives ~52.8 ns; delay scales with C10)
*   Edge sharpness     -> C12 (5p) and the tanh gain of 5 in BG2 / BE1
*   Decision threshold -> the "/1m" in BG1 sets the input voltage scale over
*                         which the decision goes full-low to full-high.
*                         Smaller is a sharper comparator but harder to
*                         converge; 1 mV is a deliberate compromise.
*   Input offset       -> add it inside BG1, e.g. (V(1)-V(2)+3m)
*
* PIN ORDER (matches the Microchip model):  In+  In-  V+  V-  OUT
* ============================================================================
.SUBCKT MCP6561 1 2 3 4 5
*
* --- decision stage: smooth tanh over a 1 mV input scale --------------------
* The "0*tanh(V(12)*5)" term is hysteresis feedback, currently disabled
* (coefficient 0). See the HYSTERESIS section above to enable it.
BG1 0 10 I=1m*tanh((V(1)-V(2)-0*tanh(V(12)*5))/1m)
R10 10 0 1k
C10 10 0 68p
*
* --- edge sharpening / propagation delay shaping ---------------------------
BG2 0 12 I=1m*tanh(V(10)*5)
R12 12 0 1k
C12 12 0 5p
*
* --- input impedance (CMOS: essentially open) ------------------------------
RIN1 1 0 1E12
RIN2 2 0 1E12
CIN1 1 0 4P
CIN2 2 0 4P
*
* --- push-pull output, rail-to-rail, 10 mV from each rail ------------------
BE1 11 0 V=V(4)+0.01+(V(3)-V(4)-0.02)*(0.5+0.5*tanh(V(12)*5))
RO1 11 5 50
C58 5 0 2P
*
* --- quiescent supply current ----------------------------------------------
IQ 3 4 100U
.ENDS MCP6561
