* C:\Users\bubba\OneDrive\Documents\LTspice\BOOST\thingy to fix the 0 error problem.asc
* Generated by LTspice 26.0.1 for Windows.
R1 N002 N001 33k
C1 N002 0 22p
V1 P001 0 5
R2 0err_hi N004 10k
R3 N004 0 60k
R4 N004 N003 20k
X§U1 N004 N002 P001 0 0err_hi MCP6561 ;§pnba In+)In-)V+)V-)OUT
V2 N003 0 5
V3 NC_01 0 PULSE(0 5 1n 1n 1n 15u 17u)
Q1 0 N006 N007 0 PNP
R5 N006 N005 22k
R6 N001 Input .01
R7 N002 N007 .01
R8 0err_hi N008 10k
C2 N008 0 10p
D1 N006 N008 D
D2 N005 N001 D
V4 Input 0 5
.model D D
.lib C:\Users\bubba\AppData\Local\LTspice\lib\cmp\standard.dio
.model NPN NPN
.model PNP PNP
.lib C:\Users\bubba\AppData\Local\LTspice\lib\cmp\standard.bjt
.include MCP6561.lib
.tran 30u uic
.backanno
.end
